US04213985
Using the procedure of Example 7, 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one was reacted with 1-phytyl-piperazine to obtain a 62% yield of 5,11-dihydro-11-[3-(4-phytyl-1-piperazinyl)-propionyl]-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one dihydrochloride which melted at 204°-210° C. (with decomposition) after crystallization from ethanol.

reactant | 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | ClCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H12ClN3O2
reactant | 1-phytyl-piperazine | C(\C=C(/C)\CCC[C@H](C)CCC[C@H](C)CCCC(C)C)N1CCNCC1 | C24H48N2
product | 5,11-dihydro-11-[3-(4-phytyl-1-piperazinyl)-propionyl]-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one dihydrochloride | 62% yield | Cl.Cl.C(\C=C(/C)\CCC[C@H](C)CCC[C@H](C)CCCC(C)C)N1CCN(CC1)CCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | InChI=1S/C39H59N5O2.2ClH/c1-30(2)12-8-13-31(3)14-9-15-32(4)16-10-17-33(5)21-24-42-26-28-43(29-27-42)25-22-37(45)44-36-20-7-6-18-34(36)39(46)41-35-19-11-23-40-38(35)44;;/h6-7,11,18-21,23,30-32H,8-10,12-17,22,24-29H2,1-5H3,(H,41,46);2*1H/b33-21+;;/t31-,32-;;/m1../s1
